US08252797B2
1-[5-Oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid
To a stirred solution of 1-[5-Oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid ethyl ester (2.6 g, 6.81 mmol) in 14 mL MeOH:H2O (3:11), NaOH (0.4 g, 10.5 mmol) was added at room temperature. The mixture was heated at 100° C. for 2 h. The reaction mixture was cooled; MeOH was removed under reduced pressure, diluted with water, washed with DCM and acidified with 1% HCl. The acidified mixture was extracted with EtOAc (3×50 mL) and the combined extract was washed with brine, dried with Na2SO4, evaporated under reduced pressure to give the title compound in 88% yield (2.1 g).

reactant | 1-[5-Oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 6.81 mmol, 2.6 g | C(C)OC(=O)C=1C=NN(C1)CC1CN(C(C1)=O)C1=CC(=CC=C1)C(F)(F)F | C18H18F3N3O3
reactant | NaOH | 10.5 mmol, 0.4 g | [OH-].[Na+]
solvent | MeOH H2O | 14 mL | CO.O
product | 1-[5-Oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid | 88% yield | O=C1CC(CN1C1=CC(=CC=C1)C(F)(F)F)CN1N=CC(=C1)C(=O)O | C16H14F3N3O3
